US06872718B1
4-Methoxy-2,5-dimethylaniline
2,5-Dimethylnitrobenzene, (46.8 ml, 0.35 mol) was dissolved in sulfuric acid (47.1 ml)/methanol (650 ml) and then 5% palladium on carbon (50% hydrate, 0.35 g) was added. The mixture was allowed to react for 3 hours under hydrogen atmosphere at the pressure of 5 atms at 40° C. After cooling, the catalyst was removed, and methanol was removed under reduced pressure. The residue was poured into a 25% aqueous ammonia solution with cooling on ice, and extracted with toluene. The extract was washed with 5% sodium hydrosulfite, dried over sodium sulfate and purified by column chromatography on a small amount of silica gel (toluene:ethyl acetate=1:1). The solvent was removed under reduced pressure and crystallization from hexane yielded 35.0 g of the title compound.

reactant | 2,5-Dimethylnitrobenzene | 0.35 mol, 46.8 ml | CC1=C(C=C(C=C1)C)[N+](=O)[O-] | C8H9NO2
reactant | methanol | 650 ml | CO | CH4O
solvent | sulfuric acid | 47.1 ml | S(O)(O)(=O)=O | H2O4S
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
product | 4-Methoxy-2,5-dimethylaniline | 35.0 g, Yield: 66% | COC1=CC(=C(N)C=C1C)C | C9H13NO
